### PR TITLE
Formalize Erdős problem 530

### LINKED ISSUE #773: Erdős Problem 530
### What is the conjecture
    
https://www.erdosproblems.com/530

  Let $\ell(N)$ be maximal such that in any finite set $A\subset \mathbb{R}$ of size $N$ there exists a Sidon subset $S$ of size $\ell(N)$ (i.e. the only solutions to $a+b=c+d$ in $S$ are the trivial ones). Determine the order of $\ell(N)$.

In particular, is it true that $\ell(N)\sim N^{1/2}$?
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by putonthetableacat55**
Formalize Erdős problem 530 with the shared `IsSidon` API, a canonical extremal function ℓ, and direct statements of the known order, open asymptotic, and Alon–Erdős cover conjecture.

Fixes #773.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/530.lean [hunk 1]
```diff
@@ -0,0 +1,162 @@
...
+with all four terms in the set is trivial, i.e. the two ordered pairs are
+equal up to swapping.
+-/
+def IsSidonFinset (S : Finset ℝ) : Prop :=
+  ∀ ⦃a b c d : ℝ⦄,
+    a ∈ S →
+      b ∈ S →
+        c ∈ S →
+          d ∈ S →
+            a + b = c + d → (a = c ∧ b = d) ∨ (a = d ∧ b = c)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:51]: please don't redefine things that are already in our repo, rather use existing definitions.
in thsi case just re-use `IsSidon` casting the `Finset` to `Set` before

File: FormalConjectures/ErdosProblems/530.lean [hunk 2]
```diff
@@ -0,0 +1,162 @@
...
+Let `ell(N)` be maximal such that every finite set `A ⊂ ℝ` of cardinality `N`
+contains a Sidon subset of cardinality `ell(N)`.  The open question formalized
+below is the sharper question on the page, namely whether `ell(N) ~ N^(1/2)`.
+
+The page also records the known order `ell(N) = Θ(N^(1/2))`, following the
+Komlós-Sulyok-Szemerédi lower bound and the classical upper bound from
+`A = {1, ..., N}`.  This is included as a separate solved statement.
+
+The stronger Alon-Erdős covering conjecture from the remarks is included as a
+separate open statement.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:33]: let's not repeat the docstring here, only put them next to the definitions/theorem once

File: FormalConjectures/ErdosProblems/530.lean [hunk 3]
```diff
@@ -0,0 +1,162 @@
...
+@[category research solved, AMS 11]
+theorem erdos_530.parts.i : SidonSubsetRootOrder := by
+  sorry
+
+/--
+In particular, is it true that `ell(N) ~ N^(1/2)`?
+-/
+@[category research open, AMS 11]
+theorem erdos_530.parts.ii : answer(sorry) ↔ SidonSubsetRootAsymptotic := by
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:147]:
```suggestion
```

File: FormalConjectures/ErdosProblems/530.lean [hunk 4]
```diff
@@ -0,0 +1,162 @@
...
+/--
+Alon and Erdős asked the stronger question of whether every `N`-element finite
+set of reals can be written as the union of at most `(1 + o(1)) N^(1/2)` Sidon
+sets.
+-/
+@[category research open, AMS 11]
+theorem erdos_530.variants.alon_erdos :
+    answer(sorry) ↔ AlonErdosStrongSidonCoverConjecture := by
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:158]:
```suggestion
```

File: FormalConjectures/ErdosProblems/530.lean [hunk 5]
```diff
@@ -0,0 +1,162 @@
...
+  sorry
+
+end Erdos530
+-- CI: trivial change to trigger lake build
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:162]:
```suggestion
```

File: FormalConjectures/ErdosProblems/530.lean [hunk 6]
```diff
@@ -0,0 +1,162 @@
...
+The extra condition `m ≤ N` records the natural finite-subset upper bound.
+-/
+def IsEllValue (N k : ℕ) : Prop :=
+  IsGreatest {m : ℕ | m ≤ N ∧ UniformSidonSubsetSize N m} k
+
+/--
+The extremal function from Erdős problem 530. This searches up to `N`, since
+no subset of an `N`-element set can have cardinality greater than `N`.
+-/
+noncomputable def ell (N : ℕ) : ℕ := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:76]: consider introducing notation here that is `ℓ`

File: FormalConjectures/ErdosProblems/530.lean [hunk 7]
```diff
@@ -0,0 +1,162 @@
...
+  classical
+  exact Nat.findGreatest (UniformSidonSubsetSize N) N
+
+/-- The known order statement `ell(N) = Θ(sqrt N)`. -/
+def SidonSubsetRootOrder : Prop :=
+  (fun N : ℕ => (ell N : ℝ)) =Θ[atTop] (fun N : ℕ => Real.sqrt (N : ℝ))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:82]: potentially `open Real` or use postfix notation: `(N : ℝ).sqrt`

File: FormalConjectures/ErdosProblems/530.lean [hunk 8]
```diff
@@ -0,0 +1,162 @@
...
+  ∃ K : ℕ → ℕ,
+    (∀ N : ℕ, UniformSidonCoverBound N (K N)) ∧
+      EventuallyAtMostOnePlusLittleO
+        (fun N : ℕ => (K N : ℝ))
+        (fun N : ℕ => Real.sqrt (N : ℝ))
+
+/--
+Let `ell(N)` be maximal such that every finite set `A ⊂ ℝ` of size `N`
+contains a Sidon subset of size `ell(N)`.  The remarks on the problem page
+record the known order `ell(N) = Θ(N^(1/2))`.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/530.lean:136]: prefer latex markdown over backticks throughout.

**Review by mo271 — COMMENTED** [review]
Thanks for the contribution. 
Looks good mathematically, left a few comments. 

Please make sure to also address the ideas behind of those comments in your other pull request if they apply there. 
Also it seems like at least in some of the other pull request you are also including the addition of 530 -- that should be removed in the other pull requests.

**Comment by mo271** [comment]
@putonthetableacat55 note how I added
`fixes #773` to the issue description above: please do accordingly for the other issues you opened, so we can keep track of the work on these better: there should be open issues for all *open* Erdős problems and some might already begin worked on.

**Comment by putonthetableacat55** [comment]
> @putonthetableacat55 note how I added `fixes #773` to the issue description above: please do accordingly for the other issues you opened, so we can keep track of the work on these better: there should be open issues for all _open_ Erdős problems and some might already begin worked on.

Hello! Thank you very much! I will start the process!
